US07105679B2
STEP C: 5-[4-(2-azepan-1-yl-ethoxy)-phenyl]-5-methyl-5,11-dihydro-chromeno[4,3-c]chromene-2,8-diol
To a solution of 1-(2-{4-[2,8-bis-(tert-butyl-dimethyl-silyloxy)-5-methyl-5,11-dihydro-chromeno[4,3-c]chromen-5-yl]-phenoxy}-ethyl)-azepane (77.5 mg, 0.11 mmol) in THF (7 mL) was added tetrabutylammonium fluoride (1M in THF, 213 μL, 0.21 mmol). The mixture was stirred at room temperature for 40 min. Saturated NH4Cl was then added followed by addition of ethyl acetate. The resulting layers were separated, organic layer was washed with brine, and dried over MgSO4. The remaining solvent was evaporated and the residue dried under vacuum for 2 h at room temperature to yield the title compound, which was carried on to the next step without further purification.

reactant | 1-(2-{4-[2,8-bis-(tert-butyl-dimethyl-silyloxy)-5-methyl-5,11-dihydro-chromeno[4,3-c]chromen-5-yl]-phenoxy}-ethyl)-azepane | 0.11 mmol, 77.5 mg | C(C)(C)(C)[Si](OC=1C=CC=2C3=C(COC2C1)C=1C=CC(=CC1OC3(C)C3=CC=C(OCCN1CCCCCC1)C=C3)O[Si](C)(C)C(C)(C)C)(C)C | C43H61NO5Si2
reactant | tetrabutylammonium fluoride | 0.21 mmol, 1M, 213 μL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | NH4Cl | [NH4+].[Cl-]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 7 mL | C1CCOC1 | C4H8O
product | 5-[4-(2-azepan-1-yl-ethoxy)-phenyl]-5-methyl-5,11-dihydro-chromeno[4,3-c]chromene-2,8-diol | N1(CCCCCC1)CCOC1=CC=C(C=C1)C1(OC=2C=C(C=CC2C=2COC=3C=C(C=CC3C21)O)O)C | C31H33NO5
